US06083961
To a suspension of 4-hydroxy-1,2-dimethyl-1H-benzimidazole (250 mg) in N,N-dimethylformamide (2.5 ml) was added sodium hydride (60% in oil, 102 mg) under ice-cooling, and the mixture was stirred for 15 minutes at ambient temperature. To the mixture was added 2,6-dichloro-1-methylsulfonyloxymethyl-3-[N-methyl-N-(phthalimidoacetyl)-amino]benzene (799 mg), and the mixture was stirred for 3 hours at ambient temperature. Water was dropwise added thereto, and the resulting precipitates were collected by filtration to give 4-[2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]benzyloxy]-1,2-dimethyl-1H-benzimidazole (418 mg).

reactant | 4-hydroxy-1,2-dimethyl-1H-benzimidazole | 250 mg | OC1=CC=CC=2N(C(=NC21)C)C | C9H10N2O
reactant | sodium hydride | 102 mg | [H-].[Na+]
reactant | 2,6-dichloro-1-methylsulfonyloxymethyl-3-[N-methyl-N-(phthalimidoacetyl)-amino]benzene | 799 mg | ClC1=C(C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl)COS(=O)(=O)C | C19H16Cl2N2O6S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 4-[2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]benzyloxy]-1,2-dimethyl-1H-benzimidazole | 418 mg | ClC1=C(COC2=CC=CC=3N(C(=NC32)C)C)C(=CC=C1N(C)C(CN1C(C=3C(C1=O)=CC=CC3)=O)=O)Cl | C27H22Cl2N4O4
